Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, nausea and vomiting x 1 week

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ with a history of alcohol abuse (quit
drinking ___, multiple episodes of acute pancreatitis (six
admissions this year to ___, and a known pancreatic 
cyst
who presented to ___ with abdominal pain, nausea and vomiting x 
3
days in the setting of a recent alcohol relapse (reports 2 nips
___. While at ___ he was found to have enlargement of the
known cyst with concern for bleeding in cyst.

The patient has a history of multiple episodes of acute
pancreatitis, and in ___ was noted to have a pancreatic
cyst on MRI. This cyst was monitored without any intervention. 
Pt
presented to ___ the morning of current presentation with three
days of ___ epigastric pain, radiating to back and n/v (minimal
bright red blood streaking in emesis) with poor po intake for 3
days. He had seen his PCP for this ___ few days prior and was
prescribed Tigan for nausea, but the symptoms progressed.
Radiology at ___ noted that the cyst had doubled in size with
some hemorrhaging into the cyst so he was transferred to ___
for further care. At ___ Lipase was 212, WBC 15. Due to his 
white
count and shift of 90% neutrophils there he received fluids and
Zosyn 4.5 g.

___ ED Course:
Pt stated that his pain was ___ but nausea was minimal. Last
vomited about 5 hours prior to presentation. Denied fevers,
chills. Endorsed recent heartburn which improved with 
ranitidine.
Also received ativan 1 mg (home med). 
 
Past Medical History:
ETOH use disorder, pancreatitis, pancreatic cyst 
Reports recent hx of elevated LFTs
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this
illness/reason for hospitalization.

 
Physical Exam:
ADMISSION EXAM
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Appears flushed
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP:  quiet in RL base, crackles in R middle lobe
GI: Abdomen soft, non-distended, tender to deep palpation in
epigastric area.  Bowel sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
MMMs
CV: RRR no m/r/g
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, minimal ttp in epigastrium.  
MSK: No erythema or swelling of joints
SKIN: No rashes or ulcerations noted
EXTR: wwp no edema
NEURO: Alert, interactive, face symmetric, gaze conjugate with
EOMI, speech fluent, motor function grossly intact/symmetric
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
WBC 11->7
Hgb 13.7->15.1
Plt 199-205
INR 1.3->1.3
BMP wnl

ALT 25->18
AST 55->15
Alk phos 58->61 
TBili 0.6->0.4

RUQUS ___. Echogenic liver consistent with steatosis. Other forms of 
liver disease 
including steatohepatitis, hepatic fibrosis, or cirrhosis cannot 
be excluded 
on the basis of this examination. 
2. 5.3 x 5.3 x 5.6 cm hypoechoic structure along the pancreatic 
head/neck 
appears similar in size to previously seen hemorrhagic cystic 
lesion from 
reference CT exam from ___. 

 
Brief Hospital Course:
Mr. ___ is a ___ male with alcoholism, recurrent 
pancreatitis and known pancreatic pseudocyst who presents with 
recurrent pancreatitis and hemorrhage within the head of the 
known cyst.

#Recurrent Pancreatitis
#Bleeding pancreatic pseudocyst
#Mild leukocytosis
The patient was transferred to ___ given concern for 
hemorrhage within pancreatic pseudocyst. No significant drop in 
hgb or hemodynamic instability. The pancreatology team was 
consulted and favored conservative management with ___ 
imaging in ___ weeks. the patient was treated with IVFs and 
analgesics with gradual improvement in his symptoms, ultimately 
advanced to a regular low fat diet. He was discharged with a 
very short course of dilaudid in case his symptoms return, but 
he was counseled to seek care should this occur. He preferred to 
___ with GI at ___, and was scheduled for clinic next 
month, at which point a repeat MRCP will be ordered to evaluate 
his pseudocyst. 

#Alcohol Dependence
Patient has a hx of 1 bottle of vodka/day for ___ years, but 
stopped about ___ years ago. He started drinking again 3 days 
prior to admission. He had not yet told his girlfriend about his 
relapse during the admission, and so this was left off the 
discharge paperwork for the patient. However we discussed 
potential pharmacologic and nonpharmacologic strategies moving 
forward, which he will discuss further with his PCP. 

#?Hepatic steatosis
Possibly mild acute changes due to alcohol (AST also elevated), 
vs chronic changes, potentially due to alcohol, NAFLD, or both. 
Recommend outpatient ultrasound. Discussed with patient

==============================

Transitional issues:

- repeat liver ultrasound in ___

- MRCP to evaluate pseudocyst in ___ with ___ GI

==============================

>30 minutes in patient care and coordination of discharge

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PARoxetine 20 mg PO DAILY depression 
2. LORazepam 1 mg PO Q6H:PRN anxiety 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID  
2.  HYDROmorphone (Dilaudid) 2 mg PO BID:PRN Pain - Severe 
for recurrent pain 
RX *hydromorphone 2 mg 1 tablet(s) by mouth up to twice daily as 
needed Disp #*3 Tablet Refills:*0 
3.  Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
RX *ondansetron 4 mg 1 tablet(s) by mouth up to three times 
daily as needed Disp #*20 Tablet Refills:*0 
4.  Ranitidine 75 mg PO BID:PRN for abdominal discomfort  
5.  LORazepam 1 mg PO Q6H:PRN anxiety  
6.  PARoxetine 20 mg PO DAILY depression  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute pancreatitis
Pancreatic pseudocyst with hemorrhage

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with a recurrence of your 
pancreatitis. It was also noted that your pancreatic cyst was 
larger and had some evidence of bleeding into it. At this time 
we did not feel a procedure was necessary. You were treated with 
IV fluids and pain and nausea medications with significant 
improvement. As mentioned below, you can ___ with our 
pancreatology team as an outpatient for continued monitoring of 
your cyst. We also recommend a repeat ultrasound of your liver 
in the future. 

 
Followup Instructions:
___